US07851473B2
(2) 4-(3-Phenyl-1,2,4-thiadiazol-5-yl)-N-[2-(trifluoromethyl)-1H-benzimidazol-5-yl]piperazine-1-carboxamide
A mixed solution of 2,2,2-trichloroethyl [2-(trifluoromethyl)-1H-benzimidazol-5-yl]carbamate (278 mg, 0.738 mmol), 1-(3-phenyl-1,2,4-thiadiazol-5-yl)piperazine (200 mg, 0.811 mmol) and diisopropylethylamine (0.129 ml, 0.738 mmol) in dimethyl sulfoxide (2.5 ml) was stirred at 70° C. for 3 hours and half. Water was poured to the reaction mixture, and the resulting solution was extracted with ethyl acetate. The extract was washed with water and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (hexane: ethyl acetate=1:1) and recrystallized from a mixed solvent of hexane and tetrahydrofuran to give 115 mg (32.8%) of the desired product as a solid.

reactant | 2,2,2-trichloroethyl [2-(trifluoromethyl)-1H-benzimidazol-5-yl]carbamate | 0.738 mmol, 278 mg | FC(C1=NC2=C(N1)C=CC(=C2)NC(OCC(Cl)(Cl)Cl)=O)(F)F | C11H7Cl3F3N3O2
reactant | 1-(3-phenyl-1,2,4-thiadiazol-5-yl)piperazine | 0.811 mmol, 200 mg | C1(=CC=CC=C1)C1=NSC(=N1)N1CCNCC1 | C12H14N4S
reactant | diisopropylethylamine | 0.738 mmol, 0.129 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | Water | O | H2O
solvent | dimethyl sulfoxide | 2.5 ml | CS(=O)C | C2H6OS
product | 4-(3-Phenyl-1,2,4-thiadiazol-5-yl)-N-[2-(trifluoromethyl)-1H-benzimidazol-5-yl]piperazine-1-carboxamide | 115 mg, 32.8% | C1(=CC=CC=C1)C1=NSC(=N1)N1CCN(CC1)C(=O)NC1=CC2=C(NC(=N2)C(F)(F)F)C=C1 | C21H18F3N7OS
